US07612075B2
A. (±)-4-[3-(Benzhydrylidene-amino)-4-cyano-benzyl]-5-oxo-piperazine-1,3-dicarboxylic acid 1-allyl ester 3-methyl ester.
To a solution containing (S)-5-oxo-piperazine-1,3-dicarboxylic acid 1-allyl ester 3-methyl ester (0.43 g, 1.77 mmol), EXAMPLE 56, and 2-(benzhydrylidene-amino)-4-bromomethyl-benzonitrile (0.66 g, 1.77 mmol), EXAMPLE 13, in anhydrous DMF (5 mL) at 0° C. is added 60% NaH (78 mg, 1.95 mmol). After 30 min, the reaction mixture is warmed to ambient temperature and maintained for 6 hours. The reaction mixture is carefully quenched with water and then diluted with water and diethyl ether. The layers are separated and the organic phase is washed twice with water, brine, dried over anhydrous Na2SO4, filtered and concentrated. The crude residue is chromatographed on silica gel (2:1 hexane/ethyl acetate to 1:1 hexane/ethyl acetate) to provide 0.37 g (39%) of the title compound as a glassy solid.

reactant | (S)-5-oxo-piperazine-1,3-dicarboxylic acid 1-allyl ester 3-methyl ester | 1.77 mmol, 0.43 g | COC(=O)[C@@H]1CN(CC(N1)=O)C(=O)OCC=C | C10H14N2O5
reactant | 2-(benzhydrylidene-amino)-4-bromomethyl-benzonitrile | 1.77 mmol, 0.66 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC1=C(C#N)C=CC(=C1)CBr | C21H15BrN2
reactant | NaH | 1.95 mmol, 78 mg | [H-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (±)-4-[3-(Benzhydrylidene-amino)-4-cyano-benzyl]-5-oxo-piperazine-1,3-dicarboxylic acid 1-allyl ester 3-methyl ester | 0.37 g, 39% | COC(=O)C1CN(CC(N1CC1=CC(=C(C=C1)C#N)N=C(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)OCC=C | C31H28N4O5
